Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rectal cancer
 
Major Surgical or Invasive Procedure:
Laparoscopic abdominoperineal resection

 
History of Present Illness:
___ w/ stage IV rectal CA (mets to liver) as well as a 
neuroendocrine tumor in the pancreas. He finished his last dose 
of radiation last month and overall is feeling well. His rectal 
pain has improved. No blood per rectum. He does note some 
frequency and sometimes has looser stools. Overall, no other 
problems. 

 
Past Medical History:
Illness: atrial flutter, hematuria, obesity, thrombophlebitis, 
hip replacement, thyroid cancer status, post surgery and 
radioactive iodine, hypertension, erectile dysfunction, back 
problems, atrial septal defect many years ago, gout.

PSHx: thyroid lobectomyin ___ for papillary cancer, hip  
replacement surgery and surgery for atrial septal defect in ___ 
 

Allergies: NKDA

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: 98.5 78 132/84 18 98 RA
Gen: Well appearing, in no acute distress
Cardiac: RRR
Pulm: CTAB
GI: Abdomen soft, mildly tender and nondistended. Wound appears 
c/d/i
 
Pertinent Results:
___ 06:02AM BLOOD WBC-8.9 RBC-4.15* Hgb-11.8* Hct-37.6* 
MCV-91 MCH-28.4 MCHC-31.4* RDW-14.3 RDWSD-47.5* Plt ___
___ 06:55AM BLOOD WBC-6.4 RBC-3.66* Hgb-10.5* Hct-33.5* 
MCV-92 MCH-28.7 MCHC-31.3* RDW-14.6 RDWSD-49.1* Plt ___
___ 06:19PM BLOOD WBC-8.5# RBC-3.96* Hgb-11.4* Hct-37.0* 
MCV-93 MCH-28.8 MCHC-30.8* RDW-14.6 RDWSD-50.3* Plt ___
___ 06:02AM BLOOD Plt ___
___ 06:55AM BLOOD Plt ___
___ 06:19PM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-98 UreaN-12 Creat-1.2 Na-137 
K-4.6 Cl-107 HCO3-23 AnGap-12
___ 06:02AM BLOOD Glucose-124* UreaN-9 Creat-1.2 Na-138 
K-4.6 Cl-107 HCO3-22 AnGap-14
___ 06:55AM BLOOD Glucose-108* UreaN-9 Creat-1.2 Na-137 
K-4.1 Cl-110* HCO3-22 AnGap-9
___ 06:19PM BLOOD Glucose-144* UreaN-8 Creat-1.3* Na-141 
K-3.9 Cl-109* HCO3-21* AnGap-15
___ 06:50AM BLOOD Calcium-11.8* Phos-2.2* Mg-1.9
___ 06:02AM BLOOD Calcium-10.6* Phos-2.2* Mg-1.8
___ 06:55AM BLOOD Calcium-10.6* Phos-3.3 Mg-1.9
___ 06:19PM BLOOD Calcium-10.6* Phos-3.2 Mg-1.8

IMAGING

MRI Pelvis ___

Interval decrease in size of previous large mid/lower rectal 
tumor now 
extending beyond the mesorectal fascia on the right, abutting 
the 
circumferential resection margin with new involvement of the 
right levator ani 
muscle.  Mesorectal lymph nodes have decreased in size, all 
measuring less 
than or equal to 5 mm. 
  
Overall imaging stage:  T4b N1.  Please refer to the PET/CT 
performed on 15 

CT Chest ___

1.  7 mm right lower lobe nodule, stable since ___.  This 
is concerning 
for metastatic disease. 
2.  Hypodense nodule in or just posterior to the remnant left 
lobe of thyroid. 
3.  Moderate cardiomegaly. 
4.  Moderate hiatal hernia. 
  
CT A/P ___

1. Rectal mass appears grossly unchanged in size. Increased 
attenuation of the 
seminal vesicles on the right, unclear if this is due to rectal 
mass invasion 
or streak artifact from adjacent hip prosthesis. 
2. Decreased size of perirectal lymph nodes. 
3. Segment 6 hepatic lesion is increased in size compared to 
prior MRI, which 
may be accentuated by difference in modality, although still 
concerning for 
metastatic disease. 
4. Additional infiltrating lesion surrounding the left central 
intrahepatic 
bile ducts with proximal biliary dilatation is again seen. 
5. Heterogeneous pancreatic lesion in the head/uncinate (vs 
multiple adjacent 
low-density lesions) is grossly unchanged, concerning for 
metastatic disease. 
There is a persistently enlarged retroperitoneal lymph node 
adjacent to the 
pancreatic head. 
6. Mild nonspecific circumferential bladder wall thickening. 

___ regarding assessment for metastase 

 
Brief Hospital Course:
Mr. ___ underwent a laparoscopic abdominoperineal resection 
and placement of fiducials on ___ for surgical treatment of 
his rectal cancer. He tolerated the procedure well and was 
transferred to the PACU in stable conditon. Please see the op 
note for technical details. Immediately postop, his pain was 
controlled with a dPCA and he was started on a diet of sips. He 
was also placed on perineal precautions and given an air 
matress. By POD#2, he was tolerating a diet of clears so he was 
placed on oral pain medications. By POD#3, he was tolerating a 
regular diet and ambulating. However, due to continued problems 
with incontinence his foley was kept in for his entire 
hospitalization. By POD #4, his pain was controlled on PO pain 
meds, his ostomy was working, he was ambulating and tolerating a 
regualr diet so he was discharged home with services for his new 
ostomy and his foley catheter. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO BID:PRN Pain 
2. Lisinopril 40 mg PO DAILY 
3. Gabapentin 300 mg PO 2 CAPSULES AM, 3 CAPSULES ___ 
4. Allopurinol ___ mg PO DAILY 
5. Lithium Carbonate 1200 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Amlodipine 5 mg PO DAILY 
8. sildenafil unknown  oral unknown 
9. Aspirin 81 mg PO DAILY 
10. Tamsulosin 0.4 mg PO QHS 
11. Levothyroxine Sodium 50 mcg PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Gabapentin 300 mg PO 2 CAPSULES AM, 3 CAPSULES ___ 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Lithium Carbonate 1200 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*25 Tablet Refills:*0
9. Allopurinol ___ mg PO DAILY 
10. Amlodipine 5 mg PO DAILY 
11. Lisinopril 40 mg PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Stage IV rectal cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ were admitted to the hospital after a laparoscopic 
abdominoperineal resection  for surgical management of your 
ractal cancer. ___ have recovered from this procedure well and 
___ are now ready to return home. Samples from your colon were 
taken and this tissue has been sent to the pathology department 
for analysis. ___ will receive these pathology results at your 
follow-up appointment. If there is an urgent need for the 
surgeon to contact ___ regarding these results they will contact 
___ before this time. ___ have tolerated a regular diet with 
good ostomy output and your pain is controlled with pain 
medications by mouth. ___ may return home to finish your 
recovery.
___ have a new colostomy. It is important to monitor the output 
from this stoma. It is expected that the stool from this ostomy 
will be solid and formed like regular stool. ___ should have ___ 
bowel movements daily. If ___ notice that ___ have not had any 
stool from your stoma in ___ days, please call the office. ___ 
may take an over the counter stool softener such as Colace if 
___ find that ___ are becoming constipated from narcotic pain 
medications. Please watch the appearance of the stoma, it should 
be beefy red/pink, if ___ notice that the stoma is turning 
darker blue or purple, or dark red please call the office for 
advice. The stoma (intestine that protrudes outside of your 
abdomen) should be beefy red or pink, it may ooze ___ amounts 
of blood at times when touched and this should subside with 
time. The skin around the ostomy site should be kept clean and 
intact. Monitor the skin around the stoma for bulging or signs 
of infection listed above. Please care for the ostomy as ___ 
have been instructed by the wound/ostomy nurses. ___ will be 
able to make an appointment with the ostomy nurse in the clinic 
7 days after surgery. ___ will have a visiting nurse at home for 
the next few weeks helping to monitor your ostomy until ___ are 
comfortable caring for it on your ___ have ___ laparoscopic 
surgical incisions on your abdomen which are closed with 
internal sutures and a skin glue called Dermabond. These are 
healing well however it is important that ___ monitor these 
areas for signs and symptoms of infection including: increasing 
redness of the incision lines, white/green/yellow/malodorous 
drainage, increased pain at the incision, increased warmth of 
the skin at the incision, or swelling of the area. Please call 
the office if ___ develop any of these symptoms or a fever. ___ 
may go to the emergency room if your symptoms are severe. 
___ may shower; pat the incisions dry with a towel, do not rub. 
The ___ incisions may be left open to the air. If closed with 
steri-strips (little white adhesive strips) instead of 
Dermabond, these will fall off over time, please do not remove 
them. Please no baths or swimming for 6 weeks after surgery 
unless told otherwise by Dr. ___ Dr. ___ will be prescribed a ___ amount of the pain medication 
called oxycodone. Please take this medication exactly as 
prescribed. ___ may take Tylenol as recommended for pain. Please 
do not take more than 4000mg of Tylenol daily. Do not drink 
alcohol while taking narcotic pain medication or Tylenol. Please 
do not drive a car while taking narcotic pain medication.
No heavy lifting greater than 6 lbs for until your first 
post-operative visit after surgery. Please no strenuous activity 
until this time unless instructed otherwise by Dr. ___ Dr. 
___.
Thank ___ for allowing us to participate in your care! Our hope 
is that ___ will have a quick return to your life and usual 
activities. Good luck!
 
Followup Instructions:
___